US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1S,2S)-2-hydroxy-1-(hydroxymethyl)-2-phenylethyl]biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-bromo-N-((1S,2S)-1,3-dihydroxy-1-phenylpropan-2-yl)benzene-sulfonamide. MS (ESI): mass calcd. for C25H23FN4O4S, 494.14; m/z found, 495.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.45 (d, J=1.4, 1H), 8.10 (s, 1H), 7.87-7.80 (m, 2H), 7.55 (t, J=7.5, 1H), 7.43-7.36 (m, 2H), 7.30-7.14 (m, 8H), 4.89 (d, J=4.0, 1H), 3.65-3.57 (m, 1H), 3.36 (d, J=1.4, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-((1S,2S)-1,3-dihydroxy-1-phenylpropan-2-yl)benzene-sulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H]([C@H](C1=CC=CC=C1)O)CO | C15H16BrNO4S
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1S,2S)-2-hydroxy-1-(hydroxymethyl)-2-phenylethyl]biphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N[C@H]([C@H](C1=CC=CC=C1)O)CO)F | C25H23FN4O4S
